US07365085B2
c) (2-Azido-1-cyclohexyl-ethyl)-benzene
To a stirring solution of 2-cyclohexyl-2-phenyl-ethanol (0.9 g, 0.00441 mole) and triethylamine (0.536 g, 0.0053 mole) in dichloromethane (10 mL) at 0° C. was added methanesulfonyl chloride (0.606 g, 0.0053 mole). The reaction was stirred at RT for 2 h. The reaction mixture was next poured into water, and extracted three times with dichloromethane. The solvent was removed and DMF (10 mL) was added to the residue. NaN3 (0.57 g, 0.0088 mole) was added to the solution and the mixture was then stirred overnight at RT. The reaction mixture was washed with water and extracted three times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated. The crude product was purified by column chromatography over silica gel (silica gel 60, EM Science) using 20% ethyl acetate:hexane as eluent to afford 0.79 g (78% yield) of the title compound as an oil. 1H-NMR (400 MHz, CDCl3) δ 7.26-7.08 (m, 5H), 3.58 (dd, 1H, J=5.2 Hz), 3.48 (dd, 1H, J=8.8 Hz), 2.53 (q, 1H. J=5.2 Hz), 1.87-0.7 (m, 11H).

reactant | 2-cyclohexyl-2-phenyl-ethanol | 0.00441 mole, 0.9 g | C1(CCCCC1)C(CO)C1=CC=CC=C1 | C14H20O
reactant | triethylamine | 0.0053 mole, 0.536 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.0053 mole, 0.606 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaN3 | 0.0088 mole, 0.57 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | (2-Azido-1-cyclohexyl-ethyl)-benzene | 0.79 g, 78% yield | N(=[N+]=[N-])CC(C1CCCCC1)C1=CC=CC=C1 | C14H19N3
